US06479490B2
To a solution of 3-(1-methylindol-3-yl)-4-[3-(3-azidopropyloxy)phenyl]furan-2,5-dione (1.0 g) in DMF (7 mL) was added and ammonium hydroxide (50 mL). The reaction mixture was heated at 140° C. for 3.5 h, then cooled to room temperature and diluted with water. The precipitates were filtered and dried to give 3-(1-methylindol-3-yl)-4-[3-(3-azidopropyloxy)phenyl]-1H-pyrrole-2,5-dione (0.58 g). MS (EI): M+ 401.

reactant | 3-(1-methylindol-3-yl)-4-[3-(3-azidopropyloxy)phenyl]furan-2,5-dione | 1.0 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CC(=CC=C1)OCCCN=[N+]=[N-])=O)=O | C22H18N4O4
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(1-methylindol-3-yl)-4-[3-(3-azidopropyloxy)phenyl]-1H-pyrrole-2,5-dione | 0.58 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)OCCCN=[N+]=[N-])=O)=O | C22H19N5O3
